US05756848
36 g (0.153 mol) of ethyl cyclohexylphenylphosphinite are heated to 90° C. under a nitrogen atmosphere and 2.9 g (0.161 mol) of water are added dropwise with constant stirring in the course of 3 hours. The batch is further stirred at 85° to 90° C. for 3 hours. An ethanol/water mixture is then distilled off in vacuo up to an internal temperature of 95° C. 30.5 g of cyclohexylphenylphosphine oxide are obtained as residue. This corresponds to a yield of 96% of theory.

reactant | ethyl cyclohexylphenylphosphinite | 0.153 mol, 36 g | C1(CCCCC1)P(OCC)C1=CC=CC=C1 | C14H21OP
reactant | water | 0.161 mol, 2.9 g | O | H2O
product | cyclohexylphenylphosphine oxide | 30.5 g, yield of 96% | C1(CCCCC1)P(C1=CC=CC=C1)=O | C12H17OP
